US05489614
3-[(3,4-Dihydroxy-5-chlorophenyl)methylene]-2,4-pentanedione
A mixture containing 3.45 g of 3,4-dihydroxy-5-chlorobenzaidehyde, 3.0 ml of 2,4-pentanedione, 0.3 ml of piperidine and 1.0 ml of acetic acid in 100 ml of 1-butyl acetate was refluxed for 2 h with Dean-Stark separator. The solution was filtered and the solvent was evaporated in vacuo. The residue was crystallized from 1-propanol. Yield 0.46 g, mp 167°-171° C.

reactant | 3,4-dihydroxy-5-chlorobenzaidehyde | 3.45 g | OC=1C=C(C=O)C=C(C1O)Cl | C7H5ClO3
reactant | 2,4-pentanedione | 3.0 ml | CC(CC(C)=O)=O | C5H8O2
reactant | piperidine | 0.3 ml | N1CCCCC1 | C5H11N
reactant | acetic acid | 1.0 ml | C(C)(=O)O | C2H4O2
solvent | 1-butyl acetate | 100 ml | C(C)(=O)OCCCC | C6H12O2
product | 3-[(3,4-Dihydroxy-5-chlorophenyl)methylene]-2,4-pentanedione | OC=1C=C(C=C(C1O)Cl)C=C(C(C)=O)C(C)=O | C12H11ClO4
